US07429565B2
Phosphorous acid mono-{4-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-2-methyl-but-2-enyl} ester
To a solution of 6-(4-hydroxy-3-methyl-but-2-enyl)-5-methoxy-4-methyl-7-(2-trimethylsilanyl-ethoxy)-3H-isobenzofuran-1-one (75 mg, 0.20 mmol) and DIEA (49 μL, 0.28 mmol) in dioxane (2 mL) was added 2-chloro-4H-1,3,2-benzodioxaphosphorin-4-one (56.7 mg, 0.28 mmol) according the procedure of Shadid, B. et al., Tetrahedron, 1989, 45, 12, 3889. After 10 minutes, another portion of 2-chloro-4H-1,3,2-benzodioxaphosphorin-4-one (40 mg, 0.20 mmol) and DIEA (35 μL, 0.20 mmol) were added. The reaction was allowed to proceed at room temperature for an additional hour, after which it was quenched by the addition of H2O. The solution was stirred for another 10 minutes and concentrated in vacuo to a small volume. The product was triturated with diethyl ether and coevaporated from acetonitrile (4×10 mL) to provide the product. 1H NMR (300 MHz, CDCl3) δ 0.03 (s, 9H), 1.08-1.30 (m, 2H), 1.84 (br s, 3H), 2.17 (s, 3H), 3.46 (br s, 2H), 3.76 (s, 3H), 4.21-4.39 (m, 4H), 5.12 (s, 2H), 5.43-5.60 (m, 1H), 7.83 (br s, 1H); 31P (121.4 MHz, CDCl3) δ 7.22; MS (m/z) 441 [M−H]−.

reactant | 6-(4-hydroxy-3-methyl-but-2-enyl)-5-methoxy-4-methyl-7-(2-trimethylsilanyl-ethoxy)-3H-isobenzofuran-1-one | 0.20 mmol, 75 mg | OCC(=CCC1=C(C(=C2COC(C2=C1OCC[Si](C)(C)C)=O)C)OC)C | C20H30O5Si
reactant | DIEA | 0.28 mmol, 49 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-chloro-4H-1,3,2-benzodioxaphosphorin-4-one | 0.28 mmol, 56.7 mg | ClP1OC2=C(C(O1)=O)C=CC=C2 | C7H4ClO3P
reactant | 2-chloro-4H-1,3,2-benzodioxaphosphorin-4-one | 0.20 mmol, 40 mg | ClP1OC2=C(C(O1)=O)C=CC=C2 | C7H4ClO3P
reactant | DIEA | 0.20 mmol, 35 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | Phosphorous acid mono-{4-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-2-methyl-but-2-enyl} ester | COC1=C(C(=C2C(OCC2=C1C)=O)OCC[Si](C)(C)C)CC=C(COP(O)O)C | C20H31O7PSi
